US04701459
A mixture of 2-(5-chloro-2-nitrophenyl)-1,3-dioxolane (21.3 g, 0.09 mole) and piperidine (39.6 g, 0.46 mole) was heated at reflux in an oil bath. After 3 hours, excess piperidine was evaporated and the residue partitioned between water and dichloromethane. The organic phase was separated and the aqueous layer extracted with dichloromethane. Combined extracts were washed with water, dried over magnesium sulfate and concentrated in vacuo to afford 2-(2-nitro-5-piperdinylphenyl)-1,3-dioxolane (21.6 g, 100%) as a dark colored oil which was used without further purification. An analytical sample was purified by flash chromatography using dichloromethane as eluant to give a light yellow oil.

reactant | 2-(5-chloro-2-nitrophenyl)-1,3-dioxolane | 0.09 mole, 21.3 g | ClC=1C=CC(=C(C1)C1OCCO1)[N+](=O)[O-] | C9H8ClNO4
reactant | piperidine | 0.46 mole, 39.6 g | N1CCCCC1 | C5H11N
product | 2-(2-nitro-5-piperdinylphenyl)-1,3-dioxolane | 21.6 g, 100% | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCCCC1)C1OCCO1 | C14H18N2O4
